US05290630
Preparation of 4-Chloro-3-nitrobenzene-N,N-bis (2-hydroxyethyl) sulphonamide
To a stirred solution of 4-chloro-3-nitrobenzene sulphonyl chloride (157.65 g; 0.616 mol) in acetone A.R. (300 ml), diethanolamine (155.19 g; 1.478 mol) was added dropwise at <20° C. over 1 hour. After stirring for a further 11/2 hours at <20° C. the yellow/brown reaction mixture was poured into ice/water (1500 g) with stirring. The resulting mixture was stirred for 11/2 hours and then the pH adjusted to pH7 by the addition of concentrated hydrochloric acid SG 1.18, filtered and washed copiously with water (3 liter). The residue was dried (40° C. vac oven) to give a pale yellow solid (156.89 g; 78% m.pt.96°)

reactant | 4-chloro-3-nitrobenzene sulphonyl chloride | 0.616 mol, 157.65 g | ClC1=C(C=C(C=C1)S(=O)(=O)Cl)[N+](=O)[O-] | C6H3Cl2NO4S
reactant | diethanolamine | 1.478 mol, 155.19 g | N(CCO)CCO | C4H11NO2
reactant | hydrochloric acid | Cl | ClH
solvent | acetone | CC(=O)C | C3H6O
product | 4-Chloro-3-nitrobenzene N,N-bis (2-hydroxyethyl) sulphonamide | ClC1=C(C=CC=C1)[N+](=O)[O-].OCCN(S(=O)=O)CCO | InChI=1S/C6H4ClNO2.C4H11NO4S/c7-5-3-1-2-4-6(5)8(9)10;6-3-1-5(2-4-7)10(8)9/h1-4H;6-7,10H,1-4H2
